US05116862
n-Butyllithium (4.8 ml of a 1.6M solution in hexane) was added to a stirred solution of diisopropylamine (1.1 ml) in tetrahydrofuran (15 ml) at 0° C. under nitrogen. The resulting mixture was maintained at 0° C. for 0.5 hour and then cooled to -70° when a solution of ethyl diethylphosphonofluoroacetate (1.7 g) in tetrahydrofuran (5 ml) was added. After a further 0.5 hour at -70°, trimethylacetaldehyde (0.76 ml) was added neat and the resulting mixture was allowed to warm to room temperature over 5 hours. After this time, water (5 ml) was added and the bulk of the solvent was removed under reduced pressure. The residue was partitioned between diethyl ether and water. The organic phase was separated, washed with water, 10% hydrochloric acid solution and brine before drying over anhydrous magnesium sulphate. The solvent was removed in vacuo to leave ethyl (Z)-2-Fluoro-4,4-dimethylpent-2-enoate as a pale green oil (1.0 g).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 1.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl diethylphosphonofluoroacetate | 1.7 g | C(C)OP(=O)(OCC)C(C(=O)OCC)F | C8H16FO5P
reactant | trimethylacetaldehyde | 0.76 ml | CC(C=O)(C)C | C5H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | ethyl (Z)-2-Fluoro-4,4-dimethylpent-2-enoate | 1.0 g | F\C(\C(=O)OCC)=C/C(C)(C)C | C9H15FO2
